US06465513B1
Step A: Preparation of Methyl 2-Carbobenzyloxyamino-3-(4-tert-butoxycarbonylpiperazin-1-yl)propionate
To N-carbobenzyloxydehydroalanine methyl ester (2.0 g, 8.4 mmol) was added 4-tert-butoxycarbonylpiperazine (1.56 g, 1.0 eq), ferric chloride (0.220 g, 0.2 eq) in a 6:1 mixture of acetonitrile/methanol. The reaction mixture was stirred at room temperature for 2 days. The reaction mixture was evaporated under reduced pressure. EtOAc was added and the organic layer washed with a soldium sulfate solution. Upon removal of the solvent under reduced pressure, the crude material was purified by column chromatography (silica gel; CH2Cl2:MeOH 4:1) to afford the title compound.

reactant | N-carbobenzyloxydehydroalanine methyl ester | 8.4 mmol, 2.0 g | COC(C(NC(=O)OCC1=CC=CC=C1)=C)=O | C12H13NO4
reactant | 4-tert-butoxycarbonylpiperazine | 1.56 g, 1.0 eq | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile methanol | C(C)#N.CO
product | Methyl 2-Carbobenzyloxyamino-3-(4-tert-butoxycarbonylpiperazin-1-yl)propionate | C(=O)(OCC1=CC=CC=C1)NC(C(=O)OC)CN1CCN(CC1)C(=O)OC(C)(C)C | C21H31N3O6
